### PR TITLE
add lemmas for weakenings

### PR DESCRIPTION
**Pull request by HuStmpHrrr**

### CODE REVIEW

File: theories/Core/Soundness/Weakening/Lemmas.v [hunk 1]
```diff
@@ -0,0 +1,107 @@
...
+Lemma invert_id : forall Γ Δ,
+    {{ Γ ⊢s Id : Δ }} ->
+    {{ ⊢ Γ ≈ Δ }}.
+Proof.
+  intros. remember {{{ Id }}} as σ. revert Heqσ.
+  induction H; intros; try congruence; mauto.
+Qed.
+
+#[export]
+  Instance WfSubPER Γ Δ : PER (wf_sub_eq Γ Δ).
```
Comment (Ailrun) [inline theories/Core/Soundness/Weakening/Lemmas.v:67]: This one is duplicated, right?

File: theories/Core/Soundness/Weakening/Lemmas.v [hunk 2]
```diff
@@ -0,0 +1,107 @@
...
+    econstructor; [ | | eapply ctxeq_exp | ..]; mauto.
+  - mauto.
+Qed.
+
+#[export]
+ Hint Resolve weakening_conv : mcltt.
+
+Lemma invert_id : forall Γ Δ,
+    {{ Γ ⊢s Id : Δ }} ->
+    {{ ⊢ Γ ≈ Δ }}.
```
Comment (Ailrun) [inline theories/Core/Soundness/Weakening/Lemmas.v:60]: This one is independent from the definition of weakening, so `Syntactic/System/Lemmas.v` might be a better place?

File: theories/Core/Soundness/Weakening/Lemmas.v [hunk 3]
```diff
@@ -0,0 +1,107 @@
...
+Proof.
+  intros. remember {{{ Id }}} as σ. revert Heqσ.
+  induction H; intros; try congruence; mauto.
```
Comment (Ailrun) [inline theories/Core/Soundness/Weakening/Lemmas.v:63]: Just as a question: Does [dependent induction](https://coq.inria.fr/doc/V8.17.1/refman/proofs/writing-proofs/reasoning-inductives.html#coq:tacn.dependent-induction) not work? (without `remember` trick)

File: theories/Core/Soundness/Weakening/Lemmas.v (hunk 1 above)
Comment (HuStmpHrrr) [reply theories/Core/Soundness/Weakening/Lemmas.v:67]: yes, removed

File: theories/Core/Soundness/Weakening/Lemmas.v (hunk 2 above)
Comment (HuStmpHrrr) [reply theories/Core/Soundness/Weakening/Lemmas.v:60]: It depends on reflexivity which is proved in CtxEq. some more refactoring is needed.

File: theories/Core/Soundness/Weakening/Lemmas.v (hunk 3 above)
Comment (HuStmpHrrr) [reply theories/Core/Soundness/Weakening/Lemmas.v]: yea it works.

File: theories/Core/Soundness/Weakening/Lemmas.v (hunk 2 above)
Comment (Ailrun) [reply theories/Core/Soundness/Weakening/Lemmas.v:62]: Oh... Ok, let's do that later.
